US06060484
A. 1-Phenyl-1-cyclohexane-methylamine
A mixture containing 1-phenyl-1-cyclohexane-carbonitrile (5.0 g, 27.0 mmol), 150 ml of EtOH, 35 ml of ammonia and 5% rhodium on alumina (1.0 g) was reacted for 12 hours at 80° C. and 500 psi. The mixture was filtered and the filtrate was concentrated in vacuo to provide an oil. This oil was dissolved in CH2Cl2, washed with brine, dried over Na2SO4, filtered and then concentrated in vacuo.

reactant | 1-phenyl-1-cyclohexane-carbonitrile | 27.0 mmol, 5.0 g | C1(=CC=CC=C1)C1(CCCCC1)C#N | C13H15N
reactant | EtOH | 150 ml | CCO | C2H6O
reactant | ammonia | 35 ml | N | H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | rhodium on alumina | 1.0 g | [Rh] | Rh
product | 1-Phenyl-1-cyclohexane-methylamine | C1(=CC=CC=C1)C1(CCCCC1)CN | C13H19N
